### PR TITLE
feat: package factories for order typeclasses

### PR DESCRIPTION
**Pull request by datokrat**
This PR provides the means to quickly provide all the order instances associated with some high-level order structure (preorder, partial order, linear preorder, linear order). This can be done via the factory functions `PreorderPackage.ofLE`, `PartialOrderPackage.ofLE`, `LinearPreorderPackage.ofLE` and `LinearOrderPackage.ofLE`.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-08-12` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-12 16:09:20)
- 💥 Mathlib branch [lean-pr-testing-9797](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9797) build failed against this PR. (2025-08-13 10:30:13) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16933702311)
- 💥 Mathlib branch [lean-pr-testing-9797](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9797) build failed against this PR. (2025-08-14 08:28:17) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16959057279)
- 💥 Mathlib branch [lean-pr-testing-9797](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9797) build failed against this PR. (2025-08-14 15:15:22) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16968043788)
- 💥 Mathlib branch [lean-pr-testing-9797](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9797) build failed against this PR. (2025-08-15 13:51:22) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16990575217)
- 💥 Mathlib branch [lean-pr-testing-9797](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9797) build failed against this PR. (2025-08-15 15:27:47) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16992363603)
- 💥 Mathlib branch [lean-pr-testing-9797](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9797) build failed against this PR. (2025-08-15 16:15:43) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16993372639)
- 💥 Mathlib branch [lean-pr-testing-9797](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9797) build failed against this PR. (2025-08-18 16:19:02) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/17045248642)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f81236185ca64f300ade0c51ae1345b9e1564299 --onto fe90da5a8ddfc2c31331e50c5d189f3f0b12c784`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-19 10:31:48)

File: src/Init/Data/Order/LemmasExtra.lean [hunk 1]
```diff
@@ -145,6 +145,16 @@ public instance LawfulOrderMax.of_ord (α : Type u) [Ord α] [Max α] [LE α] [L
   toLawfulOrderSup := .of_ord α compare_max_isLE_iff
   max_eq_or := max_eq_or
 
+public theorem min_eq_if_compare_isLE {α : Type u} [Ord α] [LE α] {_ : Min α}
```
Comment (TwoFX) [inline src/Init/Data/Order/LemmasExtra.lean]: `min_eq_if_isLE_compare` or `min_eq_if_compare`.

File: src/Init/Data/Order/Lemmas.lean [hunk 2]
```diff
@@ -272,6 +272,20 @@ public instance {α : Type u} [LE α] [Min α] [IsLinearOrder α] [LawfulOrderMi
     Std.Associative (min : α → α → α) where
   assoc a b c := by apply le_antisymm <;> simp [min_le, le_min_iff, le_refl]
 
+public theorem min_eq_if_le {α : Type u} [LE α] [DecidableLE α] {_ : Min α}
```
Comment (TwoFX) [inline src/Init/Data/Order/Lemmas.lean]: Optional suggestion: I would slightly prefer `min_eq_if` for the name.

File: src/Init/Data/Order/PackageFactories.lean [hunk 3]
```diff
@@ -0,0 +1,552 @@
...
+    BEq α where
+  beq a b := a ≤ b ∧ b ≤ a
+
+public instance instLawfulOrderBEqOfDecidableLE {α : Type u} [LE α] [DecidableLE α] :
+    LawfulOrderBEq α where
+  beq_iff_le_and_ge := by simp [BEq.beq]
+
+/-- If `LT` can be characterized in terms of a decidable `LE`, then `LT` is decidable either. -/
+@[expose]
+public def instDecidableLTOfLE {α : Type u} [LE α] {_ : LT α} [DecidableLE α] [LawfulOrderLT α] :
```
Comment (TwoFX) [inline src/Init/Data/Order/PackageFactories.lean]: The name is a bit odd here, given that this is not an instance.

File: src/Init/Data/Order/PackageFactories.lean [hunk 4]
```diff
@@ -0,0 +1,552 @@
...
+    | infer_instance
+    | exact Classical.Order.instLT
+  beq :
+    let := le; let := decidableLE
+    BEq α := by
+    extract_lets
+    first
+    | infer_instance
+    | exact FactoryInstances.instBEqOfDecidableLE
+  lawful_lt :
```
Comment (TwoFX) [inline src/Init/Data/Order/PackageFactories.lean]: Is it confusing that the name here is different from the name of the corresponding field in `LawfulOrderLT`?

File: src/Init/Data/Order/PackageFactories.lean [hunk 5]
```diff
@@ -0,0 +1,552 @@
...
+provide some arguments:
+
+```lean
+public instance : PartialOrderPackage X := .ofLE X {
+  le_refl := sorry
+  le_trans := sorry
+  le_antisymm := sorry }
+```
+
+It is also possible to do all of this by hand, without resorting to `PartialOrderPackage`. This can
```
Comment (TwoFX) [inline src/Init/Data/Order/PackageFactories.lean:236]: Would it be useful to repeat here what it means to do this by hand, i.e., explicitly list all typeclasses that one might want to implement?

File: src/Init/Data/Order/PackageFactories.lean [hunk 6]
```diff
@@ -0,0 +1,552 @@
...
+
+end PartialOrder
+
+namespace FactoryInstances
+
+public scoped instance instOrdOfDecidableLE {α : Type u} [LE α] [DecidableLE α] :
+    Ord α where
+  compare a b := if a ≤ b then if b ≤ a then .eq else .lt else .gt
+
+public theorem isLE_compare {α : Type u} [LE α] [DecidableLE α] {a b : α} :
```
Comment (TwoFX) [inline src/Init/Data/Order/PackageFactories.lean]: Nitpicking territory: I guess `isLE_compare` and `isGE_compare` don't *need* to be public, because they're only used in the proof of `instLawfulOrderOrdOfDecidableLE`.

File: src/Init/Data/Order/PackageFactories.lean [hunk 7]
```diff
@@ -0,0 +1,552 @@
...
+  toMax := args.max
+  toLawfulOrderMin :=
+    letI := LinearPreorderPackage.ofLE α args.toLinearPreorderOfLEArgs
+    letI := args.decidableLE; letI := args.min
+    IsLinearPreorder.lawfulOrderMin_of_min_eq args.min_eq
+  toLawfulOrderMax :=
+    letI := LinearPreorderPackage.ofLE α args.toLinearPreorderOfLEArgs
+    letI := args.decidableLE; letI := args.max
+    IsLinearPreorder.lawfulOrderMax_of_max_eq args.max_eq
+
```
Comment (TwoFX) [inline src/Init/Data/Order/PackageFactories.lean:551]: Is discussed earlier (I think?): if I used `LinearOrderPackage.ofLE`, and this defined `min` and `max` for me, how can i now get hold of a `LawfulOrderLeftLeaningMin` instance? I guess since we have `le_antisymm`, `min_eq_if` follows already from `LawfulOrderMin`...?

File: src/Init/Data/Order/PackageFactories.lean [hunk 8]
```diff
@@ -0,0 +1,552 @@
...
+    first
+    | infer_instance
+    | exact FactoryInstances.instBEqOfDecidableLE
+  lawful_lt :
+      let := le; let := lt
+      ∀ a b : α, a < b ↔ a ≤ b ∧ ¬ b ≤ a := by
+    extract_lets
+    first
+    | exact LawfulOrderLT.lt_iff
+    | fail "Failed to automatically prove that the `OrderData` and `LT` instances are compatible. \
```
Comment (TwoFX) [inline src/Init/Data/Order/PackageFactories.lean]: There is no such thing as `OrderData` :)

File: src/Init/Data/Order/PackageFactories.lean (hunk 7 above)
Comment (datokrat) [reply src/Init/Data/Order/PackageFactories.lean:551]: That's a good point. ~~`LineraPreorderPackage`~~ `LinearOrderPackage` should indeed entail `LawfulOrderLeftLeaningMin`, let me add that! (In other situations, creating a convenient way to prove the latter is still on my to-do list.)

File: src/Init/Data/Order/PackageFactories.lean (hunk 8 above)
Comment (datokrat) [reply src/Init/Data/Order/PackageFactories.lean]: And there never was 🤫

File: src/Init/Data/Order/PackageFactories.lean (hunk 3 above)
Comment (datokrat) [reply src/Init/Data/Order/PackageFactories.lean]: That's an interesting point. Now I wonder what's the right name for, say, `FactoryInstances.instBEqOfDecidableLE`, which is a scoped instance in a scope that will only rarely be opened... I think it makes more sense to call that one `beqOfDecidableLE` theen, too.

File: src/Init/Data/Order/PackageFactories.lean (hunk 5 above)
Comment (datokrat) [reply src/Init/Data/Order/PackageFactories.lean:236]: Isn't this covered by the description of what the package does?

```lean
/--
...
Creates a `PreorderPackage α` instance. Such an instance entails `LE α`, `LT α` and
`BEq α` instances as well as an `IsPreorder α` instance and `LawfulOrder*` instances proving the
compatibility of the operations with the preorder.
...
It is also possible to do all of this by hand, without resorting to `PreorderPackage`. This can
be useful if, say, one wants to avoid specifying an `LT α` instance, which is not possible with
`PreorderPackage`.
-/

File: src/Init/Data/Order/PackageFactories.lean (hunk 3 above)
Comment (datokrat) [reply src/Init/Data/Order/PackageFactories.lean]: I've renamed both.

File: src/Init/Data/Order/PackageFactories.lean (hunk 7 above)
Comment (datokrat) [reply src/Init/Data/Order/PackageFactories.lean:551]: I chose to do something more general: There are now instances in `Lemmas.lean` that derive `LawfulOrderLeftLeaningMin/Max` from `LawfulOrderInf/Sup` and `IsLinearOrder`. This automatically applies to the `LinearOrderPackage`.

File: src/Init/Data/Order/PackageFactories.lean (hunk 4 above)
Comment (datokrat) [reply src/Init/Data/Order/PackageFactories.lean]: Good point, I renamed them.

File: src/Init/Data/Order/PackageFactories.lean (hunk 5 above)
Comment (TwoFX) [reply src/Init/Data/Order/PackageFactories.lean:236]: Yes, I guess you're right.
